US07312236B2
2-Chloro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-4-fluoro-benzamide di-hydrochloride salt, isomer 1
Using a method similar to example 1, using 2-chloro-4-fluoro-benzoyl chloride (116 mg, 0.60 mmol) and 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine, isomer 1 (preparation 10, 100 mg, 0.46 mmol) provides of the title compound as a colorless oil (135 mg, 78%): MS (ES): m/z=374.1 (M+H)+; 1HNMR (CDCl3): δ 8.80 (s, br, 1H), 8.19 (d, 1H), 7.69 (m, 2H), 7.18 (m, 2H), 7.05 (m, 1H), 6.64 (m, 1H), 2.70 (m, 1H), 2.46 (m, 3H), 2.36 (s, 6H), 2.16 (m, 2H), 1.54 (m, 1H). Di-hydrochloride salt: Anal. cal'd for C20H21ClFN3O.2HCl: C, 53.77; H, 5.19; N, 9.41. Found: C, 54.13; H, 5.34; N, 9.41.

reactant | 2-chloro-4-fluoro-benzoyl chloride | 0.60 mmol, 116 mg | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
product | 2-Chloro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-4-fluoro-benzamide di-hydrochloride salt | 135 mg, 78% | Cl.Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)C2=CCC(CC2)N(C)C)C=CC(=C1)F | InChI=1S/C20H21ClFN3O.2ClH/c1-25(2)15-9-6-13(7-10-15)18-4-3-5-19(23-18)24-20(26)16-11-8-14(22)12-17(16)21;;/h3-6,8,11-12,15H,7,9-10H2,1-2H3,(H,23,24,26);2*1H
